US04578396
A pinch of mercury(II) chloride and an iodine crystal are added to 13 g (0.48 mol) of aluminum (in the form of flakes), the substances are covered with a layer of 60 ml of tetrahydrofuran and the mixture is stirred for 10 hours at 20° C. The mixture is then warmed to 60° C., and a solution of 84.5 g (0.71 mol) of propargyl bromide in 85 ml of tetrahydrofuran is added dropwise. The mixture is then cooled to -60° C., and a solution of 111.7 g (0.5 mol) of ω-chloro-2,4-dichloroacetophenone in 165 ml of tetrahydrofuran is added dropwise. The mixture is allowed to warm up to 0° C., and after 1 hour hydrolysis is effected with 170 ml of saturated, aqueous ammonium chloride solution. Thereafter, the mixture is filtered, the filtrate is evaporated down in vacuo and 500 ml of ethyl acetate are added to the residue. The organic phase is separated off, washed with three times 300 ml of water and dried over anhydrous sodium sulphate, and the solvent is distilled off under reduced pressure. 113.5 g (86.1% of theory) of 5-chloro-4-(2,4-dichlorophenyl)-pent-1-in-4-ol are obtained as colorless crystals of melting point 55°-57° C.

reactant | iodine | II | I2
reactant | aluminum | 0.48 mol, 13 g | [Al] | Al
reactant | propargyl bromide | 0.71 mol, 84.5 g | C(C#C)Br | C3H3Br
reactant | ω-chloro-2,4-dichloroacetophenone | 0.5 mol, 111.7 g | C1=CC(=C(C=C1Cl)Cl)C(=O)CCl | C8H5Cl3O
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 85 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 165 ml | O1CCCC1 | C4H8O
catalyst | mercury(II) chloride | [Hg](Cl)Cl
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
product | 5-chloro-4-(2,4-dichlorophenyl)-pent-1-in-4-ol | 113.5 g, 86.1% | ClCC(CC#C)(O)C1=C(C=C(C=C1)Cl)Cl | C11H9Cl3O
